US08304446B2
3-[(3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-7-fluoro-4-hydroxy-1H-indazol-1-yl)methyl]benzamide
A suspension of 3-{[3-{[(5-chloro-2-thienyl)sulfonyl]amino}-7-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide (for a preparation see Example 68) (15.7 mg, 0.032 mmol) in anhydrous DCM (2 mL) under nitrogen atmosphere was treated with boron tribromide solution in DCM (1M, 0.032 mL) at room temperature. The reaction mixture was stirred at room temperature for 45 min and then saturated aqueous sodium bicarbonate solution was added dropwise to quench the reaction. The mixture was then partitioned between further saturated aqueous sodium bicarbonate solution and 10% methanol in ethyl acetate (white precipitate was present which was insoluble in both the organic and aqueous layer). The organic layer was separated, passed through an hydrophobic frit and evaporated in-vacuo to yield a yellow solid (13 mg). This was dissolved in MeOH:DMSO (1:1) (0.5 mL) and purified by MDAP on Sunfire C18 column, eluting with solvents A/B (A: 0.1% v/v solution of formic acid in water, B: 0.1% v/v solution of formic acid in acetonitrile). Appropriate fraction was evaporated in-vacuo to yield the title compound as a yellow solid (8.5 mg, 56%). LCMS (System B) RT=2.41 min, ES+ve m/z 481/483 (M+H)+.

reactant | 3-{[3-{[(5-chloro-2-thienyl)sulfonyl]amino}-7-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=C(C=CC(=C12)OC)F)CC=1C=C(C(=O)N)C=CC1 | C20H16ClFN4O4S2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1M, 0.032 mL | C(Cl)Cl | CH2Cl2
product | 3-[(3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-7-fluoro-4-hydroxy-1H-indazol-1-yl)methyl]benzamide | 13 mg | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=C(C=CC(=C12)O)F)CC=1C=C(C(=O)N)C=CC1 | C19H14ClFN4O4S2
